US09284271B2
2-(2-(triethylsilyl)-5-(trifluoromethyl)-1H-indol-3-yl)ethanol was prepared according to method D Step II with 2-iodo-4-(trifluoromethyl)aniline (1.0 g; 3.48 mmol), 4-(triethylsilyl)but-3-yn-1-ol (0.807 mL; 3.83 mmol), Bis(diphenylphosphino)ferrocene]palladium(II) chloride (0.142 g; 0.174 mmol), lithium chloride (0.147 g; 3.48 mmol) and sodium carbonate (0.738 g; 6.97 mmol) in DMF (10 mL). The crude mixture was purified by flash chromatography on silica gel (eluent 2 to 40% ethyl acetate in heptane) to afford 0.733 g (61%) of 2-(2-(triethylsilyl)-5-(trifluoromethyl)-1H-indol-3-yl)ethanol as a yellow oil.

reactant | 2-iodo-4-(trifluoromethyl)aniline | 3.48 mmol, 1.0 g | IC1=C(N)C=CC(=C1)C(F)(F)F | C7H5F3IN
reactant | 4-(triethylsilyl)but-3-yn-1-ol | 3.83 mmol, 0.807 mL | C(C)[Si](C#CCCO)(CC)CC | C10H20OSi
reactant | lithium chloride | 3.48 mmol, 0.147 g | [Cl-].[Li+]
reactant | sodium carbonate | 6.97 mmol, 0.738 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium(II) chloride | 0.174 mmol, 0.142 g | [Pd](Cl)Cl
product | 2-(2-(triethylsilyl)-5-(trifluoromethyl)-1H-indol-3-yl)ethanol | 0.733 g, 61% | C(C)[Si](C=1NC2=CC=C(C=C2C1CCO)C(F)(F)F)(CC)CC | C17H24F3NOSi
